Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hallucinations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HTN, ___ who presents with hallucinations for 2 
days.
He was recently treated for a left foot/ankle fracture 6 days 
ago when a pallette fell on his foot. He lives alone and was 
able to take care of this on his own. He then came up from ___ 
___ to visit his daughter that lives here in ___. He drove 
up with his daughter that lives in ___. The day prior to driving 
up he called ___ ___ Daughter) and the daughter states 
that he was acting strange over the phone asking if she was OK, 
demanding to know where she was. On the ride up here he told his 
daughter that he saw ___ cut them off and then he tried to mug 
him. He put his hand through the man and realized the man wasn't 
real. The daughter also says that his medications were messed up 
and that pills from different bottles were mixed up.
When interviewing the patient directly he states that he is not 
currently seeing anything. He hasn't had any hallucinations for 
several hours (prior to coming into the ED).
He was diagnosed with ___ ___ years ago. Followed by a 
neurologist in ___ (Dr. ___ ___. He had a left foot 
tremor and flat affect. He is currently on carbidopa-levidopa 
and ropinirole. He cannot give a good history of whether there 
were any med changes but it does look like from OMR he was 
recently uptitrated on ropinirole from 1 to 2mg TID.
Besides the ankle fracture he has not had any recent illnesses. 
Denies fever, chills, nausea, vomiting, cough, dyspnea, dysuria, 
diarrhea.
In the ED, initial vitals: 98.3 90 84/50 18 100% RA
- Labs notable for: Cr 1.5 (unknown baseline)
- Imaging notable for: Negative Head CT, Negative CXR
- Patient given: 2L IVF
- Vitals prior to transfer: 98.3 80 122/64 18 100% RA
 
Past Medical History:
___ Disease
HTN
Chronic Hip Pain
 
Social History:
___
Family History:
Grandfather with ___.
 
Physical Exam:
ADMISSION EXAM: 
Vitals: 164 / 85 87 20 98 RA
General: Alert, oriented to person, situation. Does not know 
city (thinks he is in ___)
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, no cyanosis or edema
Skin: Without rashes or lesions
Neuro: CN ___ intact. ___ strength throughout. No resting 
tremor noted. Cogwheel rigidity noted in all extremities on 
passive movement.

DISCHARGE EXAM: 
Vitals: 98.6 130 / 77 77 16 98 RA
General: Alert, oriented to person, situation, date, ___ but 
not hospital.
HEENT: Sclera anicteric, MMM, oropharynx clear
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, no cyanosis or edema
Skin: Without rashes or lesions
Neuro: Flat affect. CN ___ intact. ___ strength throughout. 
Resting tremor in the bilateral feet, and fine resting tremor in 
the hands bilaterally. Mild Cogwheeling noted in arms.
 
Pertinent Results:
RELEVANT LABS:

___ 12:12AM BLOOD WBC-7.2 RBC-4.43* Hgb-13.9 Hct-42.3 
MCV-96 MCH-31.4 MCHC-32.9 RDW-12.0 RDWSD-42.5 Plt ___
___ 12:12AM BLOOD Neuts-66.3 ___ Monos-9.2 Eos-4.6 
Baso-0.6 Im ___ AbsNeut-4.75 AbsLymp-1.36 AbsMono-0.66 
AbsEos-0.33 AbsBaso-0.04
___ 12:12AM BLOOD Glucose-108* UreaN-46* Creat-1.5* Na-133 
K-4.1 Cl-95* HCO3-27 AnGap-15
___ 08:00AM BLOOD Glucose-135* UreaN-36* Creat-1.1 Na-137 
K-4.3 Cl-103 HCO3-22 AnGap-16
___ 12:12AM BLOOD ALT-<5 AST-9 AlkPhos-84 TotBili-0.3
___ 12:12AM BLOOD Albumin-4.6 Calcium-9.6 Phos-3.8 Mg-2.2
___ 12:16AM BLOOD Lactate-1.0
___ 01:10AM URINE Color-Straw Appear-Clear Sp ___
___ 01:10AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

___ Blood Cx x2 - negative
___ Urine Cx - negative 

___ Head CT
No evidence for acute intracranial abnormalities.

___ CXR 
No acute cardiopulmonary abnormality.

___ EKG: 
Sinus rhythm with underlying right bundle-branch block. No 
previous tracing
available for comparison.
 
 
 
Brief Hospital Course:
___ man with HTN, ___ disease, and chronic hip pain who 
presented with hallucinations for 1 week, felt to be due to high 
doses of ___'s medications; improved with holding of home 
ropinerole. 

#Hallucinations; 
He reported that one week prior to admission he began having 
visual hallucinations of people and objects. He denied command 
hallucinations, SI and HI through the entire admission. His 
family reported that he lives alone at baseline and is 
functionally independent, but when they met him on ___ to drive 
from ___ to ___ to visit relatives he appeared to have 
confused his medications and was hallucinating and confused. On 
admission to ___ neurology was consulted, his ropinerole was 
held and sinemet continued at his home dose ___, 2 tabs 
QID). His hallucinations resolved, consistent with dopaminergic 
toxicity. His neurologic exam was notable for mild 
hypomimia/hypophonia, increased rigidity with facilitation which 
were stable throughout this admission even with stopping 
ropinerole. Neurology recommended holding ropinerole on 
discharge with plans for sinemet taper as outpatient. His 
neurologist Dr. ___ in ___ was contacted, who was in agreement 
with the plan. It was discussed with the patient and his family 
that close follow up is essential to ensure appropriate dosing 
of his ___ medications. His daughters will stay with him 
for several days after return home to assist with medication 
management, and to monitor for further hallucinations. 

#Chronic hip pain/Restless leg syndrome: on discussion with his 
outpatient Neurologist, Dr. ___ patient was taking 
ropinerole for chronic hip pain as empiric treatment for 
restless leg syndrome. His hip pain was stable/did not worsen 
when ropinerole was held this admission. 

#Acute renal injury: He was noted on arrival to have Cr of 1.5, 
which downtrended to 1.1 with fluid hydration. Unknown baseline. 
As sinemet and ropinerole are renally cleared these may have 
contributed to dopaminergic toxicity. 

#HTN; normotensive this admission, likely due to dehydration in 
the setting of altered mental status and hallucinations above. 
His Benicar was held on discharge for this reason.  

Transitional Issues: 
- Ropinerole was held due to dopaminergic toxicity. He was on it 
for hip pain. There was no change in his hip pain ___ 
symptoms with discontinuation so recommend not restarting. 
- Patient was continued on Carbidopa-Levodopa (___) 2 TAB 
QID, which is his home dose. Recommend slow outpatient taper by 
Dr. ___. 
- Patient should avoid narcotics as tolerated, in order to avoid 
deliorogenic meds.
- His home Benicar was held due to ___ and dehydration on 
presentation and normotension this admission. Restart as 
appropriate and please recheck BMP at primary care appointment.

- He should continue hard sole boot for his L ankle fracture, 
with follow-up with orthopedics as previously established. 
-patient had ___ episodes of mild diarrhea on day of discharge. 
No concern for volume depletion and no risk factors for c. diff. 
Given 1 dose of Imodium. Please follow up resolution. 

# CODE STATUS: Presumed Full 
# CONTACT: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benicar HCT (olmesartan-hydrochlorothiazide) 40-25 mg oral 
DAILY 
2. rOPINIRole 2 mg PO TID 
3. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Mild 
4. Carbidopa-Levodopa (___) 2 TAB PO QID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Moderate  
2.  Carbidopa-Levodopa (___) 2 TAB PO QID  
3. HELD- Benicar HCT (olmesartan-hydrochlorothiazide) 40-25 mg 
oral DAILY  This medication was held. Do not restart Benicar HCT 
until your primary care doctor says it is okay
4. HELD- OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN 
Pain - Mild  This medication was held. Do not restart 
OxyCODONE--Acetaminophen (5mg-325mg) until your neurologist or 
primary care doctor say it is okay 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNSOSIS:
Hallucinations, unspecified
___ Disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you here at ___ 
___. 

Why you were here: 
- You were having hallucinations - you were seeing people and 
objects that were not actually there. 

What we did while you were here: 
- We stopped your Ropinerole. We think your hallucinations are 
being caused by high doses of your ___ meds. It is 
possible that if you got mixed up with your meds, you may have 
taken too much. 
- We continued your Sinemet at your home dose, but Dr. ___ 
will need to taper this medication slowly once you get back to 
___. We talked with him by phone and he agreed with this 
plan. Ultimately Dr. ___ will spearhead your Parkinsons 
Medication management. 

Sincerely, 
Your care team 

 
Followup Instructions:
___